Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Boric Acid
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
- CT-guided needle biopsy

 
History of Present Illness:
___ in usual state of health until 2 days ago when she developed 
nausea and vomiting.  She reports no diarrhea or abdominal pain. 
 She states that she has been able to take POs.  She notes some 
back pain over the last few months.  She denies any sick 
contacts.  She denies dysuria or hematuria, headaches, sweating.
 
Past Medical History:
1. Atrial fibrillation on Coumadin  
2. CHF with EF >60%, Echo in ___. Constipation alternating with loose stools  
4. Hypothyroidism  
5. Depression  
6. Anemia, iron deficiency
7. Poor vision due to macular degeneration
8. Recurrent vertigo- evaluated multiple times in the past by 
neurology. 
 
Social History:
___
Family History:
Father died of "heart failure"
 
Physical Exam:
Admission PE:
Tc 100.5, HR 103, BP 137/79, RR 18, O2sat 97%
Genl: NAD
CV: RRR
Resp: CTA-B
Abd: s/nt/nd
Extr: no c/c/e
DRE: nl rectal tone; guaiac negative

 
Pertinent Results:
___ 10:30PM URINE  ___ BACTERIA-NONE 
YEAST-RARE ___ RENAL ___ 10:30PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-SM
___ 10:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:35PM   ___ PTT-33.6 ___
___ 10:35PM   PLT COUNT-286
___ 10:35PM   NEUTS-91.2* LYMPHS-5.4* MONOS-2.9 EOS-0.4 
BASOS-0.1
___ 10:35PM   WBC-15.7*# RBC-4.02* HGB-12.3 HCT-37.1 MCV-92 
MCH-30.8 MCHC-33.3 RDW-13.8
___ 10:35PM   ALBUMIN-3.7
___ 10:35PM   CK-MB-NotDone
___ 10:35PM   cTropnT-<0.01
___ 10:35PM   ALT(SGPT)-12 AST(SGOT)-16 CK(CPK)-25* ALK 
PHOS-55 TOT BILI-0.9
___ 10:35PM   estGFR-Using this
___ 10:35PM   GLUCOSE-173* UREA N-21* CREAT-0.9 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-26 ANION GAP-15

CT ABDOMEN W/CONTRAST Study Date of ___ 12:38 AM 
1. New retroperitoneal lymphadenopathy particularly along the 
left paraaortic chain, with a couple of these lymph nodes 
demonstrating central hypodensity suggesting necrosis. 
Additionally, a retroperitoneal mass located along the right 
renal hilum, which appears to be separate from the adjacent 
right kidney and adrenal gland likely represents a lymph node 
with central area of either hemorrhage or necrosis, associated 
with right retroperitoneal stranding. The larger mass does not 
appear to represent a separate disease process, however. The 
etiology is suspicious for malignancy, but given infectious 
symptoms, an usual infection or abscess formation with the 
largest node should be considered. 
  
2. Nodular soft tissue with coarse calcification in the right 
breast is as 
previously seen on mammography. 
  
3. Moderate hiatal hernia containing debris. 
  
4. Trace pleural effusions with dependent atelectasis. 
  
5. Sigmoid diverticulosis, without evidence of diverticulitis. 
  
6. Atherosclerotic disease. 
  
7. Old rib and spine fractures are unchanged. 

 
Brief Hospital Course:
___ with atrial fibrillation on Coumadin, with newly found 
retroperitoneal mass near her right renal hilum, and new 
para-aortic nodes, concerning for malignancy.  

Patient admitted to Surgery/ Dr. ___.  Her medical 
management included Vitamin K PO and IV given on hospital day 2 
for supratherapeutic INR of 4.1.  This was repeated the 
following day and CT guided needle biopsy was obtained on 
___.  Patient remained stable overnight and was discharged 
home on ___.  PCP was contacted regarding decision not to 
restart patient on her home Coumadin given her risk factors.  
Final tissue diagnosis was not available at the time of 
discharge.  Patient was referred to primary care provider for 
___.
 
Medications on Admission:
.ALENDRONATE 70 mg 1 Tablet(s) by mouth q week
.AMOXICILLIN - 500 mg Capsule - 4 Capsule(s) by mouth 1 hour
prior to dental visits
.BIMATOPROST 0.03 % Drops - one drop in each eye once a day
.BUDESONIDE 32 mcg Spray, Non-Aerosol - 1 sprays(s) ea nostril
once a day
.FLUTICASONE 110 mcg/Actuation Aeroso 2 puffs inhaled once a day
.FUROSEMIDE 20 mg 2 Tablet(s) by mouth daily alternating with 3
tablets daily
.METOPROLOL SUCCINATE 50 mg Tablet Sustained Release 24 hr - 2
Tablet(s) by mouth daily 
.PREDNISOLONE ACETATE 1 % Drops, Suspension - one drop in the
left eye every other day
.SERTRALINE 50 mg ___ Tablet(s) by mouth once a day
.THYROID 30 mg  Tablet(s) by mouth every day
.THYROID 15 mg 1 Tablet(s) by mouth every day with 30 mg tablet 
=
45 mg
.WARFARIN 1 mg Tablet - up to 3 Tablet(s) by mouth once a day as
directed to maintain INR
.ACETAMINOPHEN [TYLENOL EXTRA STRENGTH] -  (Prescribed by Other
Provider) - 500 mg Tablet - 2 Tablet(s) by mouth twice a day
.CALCIUM CARBONATE [SOOTHE] -  (Prescribed by Other Provider) - 
1
%-4.5 % Drops - in each eye three times a day
.CALCIUM CITRATE-VITAMIN D3 [CITRACAL + D] -  (OTC) - 315 mg-200
unit Tablet - 2 (Two) Tablet(s) by mouth twice a day
.DOCUSATE SODIUM [COLACE] -  (Prescribed by Other Provider) - 
100
mg Capsule - Capsule(s) by mouth once a day as needed
.ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D] -  (OTC) - 400 unit
Tablet - 1 Tablet(s) by mouth once a day
.LORATADINE [CLARITIN] - 10 mg Tablet - one half Tablet(s) by
mouth once a day as needed for allergy symptoms
.MULTIVITAMIN -   Tablet - 1 Tablet(s) by mouth once a day
.OMEGA-3 FATTY ACIDS [FISH OIL] -  (Prescribed by Other 
Provider)
- 1,000 mg Capsule - 1 Capsule(s) by mouth once a day
.VIT C-VIT E-COPPER-ZNOX-LUTEIN [PRESERVISION] -  (Prescribed by
Other Provider) - 226 mg-200 unit-5 mg-0.8 mg-34.8 mg Capsule - 
2
Capsule(s) by mouth twice a day

 
Discharge Medications:
1. Soothe XP ___ % Drops Sig: One (1) ___ TID Ophthalmic TID (3 
times a day).  
2. Lumigan 0.03 % Drops Sig: One (1) ___ DAILY Ophthalmic once a 
day.  
3. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

4. Amoxicillin 500 mg Capsule Sig: Four (4) Capsule PO 1 hour 
before dental surgery.  
5. Budesonide 32 mcg/Actuation Spray, Non-Aerosol Sig: One (1) 
each nostril Nasal once a day.  
6. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation DAILY (Daily).  
7. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
8. Prednisolone Acetate 1 % Drops, Suspension Sig: One (1) drop 
left eye Ophthalmic QOD ().  
9. Sertraline 50 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
10. Thyroid 30 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
11. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every six 
(6) hours as needed for pain for 2 weeks.  
12. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily) as needed for constipation.  
13. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Furosemide 40 mg Tablet Sig: One (1) Tablet PO QOD ().  
15. Furosemide 40 mg Tablet Sig: 1.5 Tablets PO QOD ().  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
- Abdominal pain

Secondary diagnoses:
- Atrial fibrillation on Coumadin  
- CHF with EF >60%, Echo in ___
- Constipation alternating with loose stools  
- Hypothyroidism  
- Depression  
- Anemia, iron deficiency
- Poor vision due to macular degeneration
- Recurrent vertigo- evaluated multiple times in the past by 
neurology

 
Discharge Condition:
Afebrile; vital signs stable; in good condition; ambulatory

 
Discharge Instructions:
You have been treated in the hospital for your abdominal pain.  
You were treated initially because your "INR" was high likely as 
a result of your Coumadin.  We reversed the INR to a level safe 
for an CT-guided biopsy of a mass seen on a CT scan of your 
abdomen.  They did a fine needle aspiration and biopsy of one of 
your right retroperitoneal lymph nodes without immediate 
complications.  You underwent this procedure during 
hospitalization on ___. 

Changes to your medication:
We spoke with Dr. ___ your hospitalization.  It was 
decided to keep you off of Coumadin at this time.  You will need 
to ___ with her as an outpatient for this.   Please do not 
take Coumadin until that time, when you can better talk with 
your primary care doctor about your continued care.

You should return to the hospital Emergency Department or call 
your primary care provider if you have worsening abdominal pain, 
nausea vomiting, blood or dark stool, pain/redness/drainage/pus 
at the needle biopsy side.
 
Followup Instructions:
___